US07166598B2
A solution of 3,4-dihydro-4-[(1,3-dioxolan-2-yl)methyl]-2H-pyrido[3,2-b]-1,4-oxazine (0.13 g) in acetone (10 ml) and water (1 ml) was heated under reflux in the presence of p-toluenesulfonic acid (2.24 g) for 3 days. The mixture was concentrated in vacuo and the residue was poured into aqueous saturated sodium hydrogen carbonate solution. The water layer was extracted with ethyl acetate three times and the combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel using a mixed solvent of methanol and dichloromethane (1:10) as an eluent. The fractions containing the objective compound were collected and evaporated under reduced pressure to give 2-[3,4-dihydro-2H-pyrido[3,2-b]-1,4-oxazin-4-yl]acetaldehyde (0.09 g) as an oil.

reactant | 3,4-dihydro-4-[(1,3-dioxolan-2-yl)methyl]-2H-pyrido[3,2-b]-1,4-oxazine | 0.13 g | O1C(OCC1)CN1C2=C(OCC1)C=CC=N2 | C11H14N2O3
reactant | p-toluenesulfonic acid | 2.24 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 1 ml | O | H2O
product | 2-[3,4-dihydro-2H-pyrido[3,2-b]-1,4-oxazin-4-yl]acetaldehyde | 0.09 g | O1C2=C(N(CC1)CC=O)N=CC=C2 | C9H10N2O2
